US07566734B2
N-benzyl(4-(1,1′-biphenyl)-4-yl-1H-imidazol-2-yl)-N-methylmethanamine
(4-(1,1′-biphenyl)-4-yl-1H-imidazol-2-yl)-N-methylmethanamine (1 g; 0.003 mol; prepared according to experimental conditions analogous to the preceding examples and using the appropriate starting compounds and reaction products) was diluted in 20 ml dimethylformamide. Potassium carbonate (1.23 g; 0.009 mol) was added at about 23° C. and then benzyl bromide (0.34 ml; 0.003 mol) was added quite slowly. The reaction mixture was agitated at this temperature for about 48 hours then poured in icy water. The mixture was extracted with ethyl acetate and the organic phase washed with water. After drying over magnesium sulfate, the solvents were concentrated using a rotative evaporator. After purification over a silica column (eluent: ethyl acetate-heptane/8-2), a white solid was obtained in the form of a glue (yield of 16%). Free base. Melting point: 106-108° C. MH+=354.2.

reactant | (4-(1,1′-biphenyl)-4-yl-1H-imidazol-2-yl)-N-methylmethanamine | C1(=CC=C(C=C1)C=1N=C(NC1)CNC)C1=CC=CC=C1 | C17H17N3
reactant | Potassium carbonate | 0.009 mol, 1.23 g | C([O-])([O-])=O.[K+].[K+]
reactant | benzyl bromide | 0.003 mol, 0.34 ml | C(C1=CC=CC=C1)Br | C7H7Br
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | N-benzyl(4-(1,1′-biphenyl)-4-yl-1H-imidazol-2-yl)-N-methylmethanamine | yield of 16% | C(C1=CC=CC=C1)N(CC=1NC=C(N1)C1=CC=C(C=C1)C1=CC=CC=C1)C | C24H23N3
